US08980875B2
In a 25 ml one-necked flask, 0.35 g (4.26 mmol) of 1-methylimidazole is dissolved in 10 ml of tetrahydrofuran and then 1.18 g (5.12 mmol) of 3,4-dimethoxybenzyl bromide are added. After heating under reflux overnight, 50 ml of diethyl ether are added. The precipitate formed is drained and then washed with diethyl ether. 1.25 g (94%) of 3-(3,4-dimethoxybenzyl)-1-methylimidazolium bromide are thus obtained in the form of a light beige powder, used as it is in the next step, whose characteristic is the following:

reactant | 1-methylimidazole | 4.26 mmol, 0.35 g | CN1C=NC=C1 | C4H6N2
reactant | 3,4-dimethoxybenzyl bromide | 5.12 mmol, 1.18 g | COC=1C=C(CBr)C=CC1OC | C9H11BrO2
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(3,4-dimethoxybenzyl)-1-methylimidazolium bromide | 1.25 g, 94% | [Br-].COC=1C=C(CN2C=[N+](C=C2)C)C=CC1OC | InChI=1S/C13H17N2O2.BrH/c1-14-6-7-15(10-14)9-11-4-5-12(16-2)13(8-11)17-3;/h4-8,10H,9H2,1-3H3;1H/q+1;/p-1
